* 2164 black box model from emilie gillet
.SUBCKT 2164CELL IN OUT CV
V1 IN 0 0
* SSI datasheet says CV input is now 10K
R2 CV 0 10k
G1 OUT 0 VALUE={-I(V1)*PWR(10, -V(CV) * 1.5)}
.ENDS
.SUBCKT SSI2164 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
XA 2 4 3 2164CELL
XB 7 5 6 2164CELL
XC 10 12 11 2164CELL
XD 15 13 14 2164CELL
.ENDS